### PR TITLE
feat: change delimiting of local attributes in implicit sections

### PR DESCRIPTION
**Pull request by wkrozowski**
This PR modifies macros, which implement non-atomic definitions and ```$cmd1 in $cmd2``` syntax. These macros involve implicit scopes, introduced through ```section``` and ```namespace``` commands.  Since sections or namespaces are designed to delimit local attributes, this has led to unintuitive behaviour when applying local attributes to definitions appearing in the above-mentioned contexts.  This has been causing the following examples to fail:
```lean4
axiom A : Prop

namespace ex1
open Nat in
@[local simp] axiom a : A ↔ True
example : A := by simp
end ex1

namespace ex2
@[local simp] axiom Foo.a : A ↔ True
example : A := by simp
end ex2
```
This PR adds an internal-only piece of syntax, ```InternalSyntax.end_local_scope```, that influences the ```ScopedEnvExtension.addLocalEntry``` used in implementing local attributes, to avoid delimiting local entries in the current scope. This command is used in the above-mentioned macros. 

Closes [#9445](https://github.com/leanprover/lean4/issues/9445).

### CODE REVIEW

File: src/Lean/Parser/Command.lean [hunk 1]
```diff
@@ -290,6 +290,9 @@ with `end <id>`. The `end` command is optional at the end of a file.
 -/
 @[builtin_command_parser] def «end»          := leading_parser
   "end" >> optional (ppSpace >> checkColGt >> ident)
+
+@[builtin_command_parser] def «end_local_scope»      := leading_parser "end_local_scope "
```
Comment (nomeata) [inline src/Lean/Parser/Command.lean]:
```suggestion
@[builtin_command_parser] def «end_local_scope»      := leading_parser "end_local_scope"
```

File: tests/lean/run/9445.lean [hunk 2]
```diff
@@ -0,0 +1,21 @@
...
+@[local simp] axiom bar : A ↔ true
+end foo
+
+theorem baz : A ↔ true := by simp
+end ex1
+
+namespace ex2
+namespace foo
+@[local simp] axiom bar : A ↔ true
+end foo
```
Comment (nomeata) [inline tests/lean/run/9445.lean]: Just to check that this doesn't retroactively open the scope
```suggestion
end_local_scope
end foo
```

File: src/Lean/Parser/Command.lean [hunk 3]
```diff
@@ -290,6 +290,9 @@ with `end <id>`. The `end` command is optional at the end of a file.
 -/
 @[builtin_command_parser] def «end»          := leading_parser
   "end" >> optional (ppSpace >> checkColGt >> ident)
+
+@[builtin_command_parser] def «end_local_scope»      := leading_parser "end_local_scope"
```
Comment (nomeata) [inline src/Lean/Parser/Command.lean]: Even if it's internal, we should document it here. Also the `delimitsLocal` flag should clearly document it’s effect.

**Comment by ghost** [comment]
Mathlib CI status ([docs](https://leanprover-community.github.io/contribute/tags_and_branches.html)):
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 2875e8f277b2de0045f7f8c4169f7273281a0af1 --onto fe90da5a8ddfc2c31331e50c5d189f3f0b12c784`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-08-19 15:37:10)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 2875e8f277b2de0045f7f8c4169f7273281a0af1 --onto 21f5263f2f28e5fd7b6a99c40f0c11351f04aedb`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-08-21 19:25:18)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 4f94972ff104a56b2c75598fe73fadc9e480a188 --onto 797985e3197ad2cf805310911854565996e72c48`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-08-26 09:45:14)
- ✅ Mathlib branch [lean-pr-testing-9968](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-9968) has successfully built against this PR. (2025-08-28 15:00:37) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/17298144599)

File: src/Lean/Elab/BuiltinCommand.lean [hunk 4]
```diff
@@ -42,6 +43,8 @@ private def addScope (isNewNamespace : Bool) (header : String) (newNamespace : N
       attrs := s.scopes.head!.attrs ++ attrs
     } :: s.scopes
   }
+  -- We ensure that we delimit local entries by default
+  setDelimitsLocal true
```
Comment (nomeata) [inline src/Lean/Elab/BuiltinCommand.lean]: This looks wrong. This would affect the current top existing state, not just the newly created scope?

Maybe hard to trigger in surface syntax if there is only one command on both sides of `in`, but in principle 
```
unseal a in
( section end
  unseal b )
```
would now no longer leak the unseal b from the scope, because the creation of the inner section has closed the section again.

If have expected that pushScope inside the ScopedEnvExtension always sets the flag to true on the new state only. And the interface towards this module is just `unsetDelimitsLocal` with no parameter.

Comment (nomeata) [reply src/Lean/Elab/BuiltinCommand.lean]: Or if there is a reason why `pushScope` should not always begin with this flag set to true, then I guess at least run this line after you pushed the new scope?
